US04563446
In the presence of triethylamine, (E)-7-phenyl-7-(3-pyridyl)-6-hepten-1-ol (2.0 g, 7.4 mmoles) was reacted with n-butyl isocyanate (0.8 g) in the same manner as Example 9 to give 1-(n-butyl)aminocarbonyloxy-(E)-7-phenyl-7-(3-pyridyl)-6-heptene (Compound Id-25, 2.3 g) as an oil

reactant | (E)-7-phenyl-7-(3-pyridyl)-6-hepten-1-ol | 7.4 mmoles, 2.0 g | C1(=CC=CC=C1)\C(=C/CCCCCO)\C=1C=NC=CC1 | C18H21NO
reactant | n-butyl isocyanate | 0.8 g | C(CCC)N=C=O | C5H9NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-(n-butyl)aminocarbonyloxy-(E)-7-phenyl-7-(3-pyridyl)-6-heptene | 2.3 g | C(CCC)NC(=O)OCCCCC\C=C(\C=1C=NC=CC1)/C1=CC=CC=C1 | C23H30N2O2
